US04523030
28.26 g of aluminium trichloride are suspended in 70 ml of dichloromethane and, over a period of 15 minutes, 10.19 g of 5-methoxybenzocyclobutene-1-carboxylic acid methyl ester are added dropwise at from 20° to 30°. Stirring is carried out for 30 minutes, 20.8 g of m-methylthiobenzoyl chloride are added dropwise over a period of 20 minutes and the whole is stirred for 4 hours at room temperature, poured into a mixture of 200 g of ice, 20 ml of concentrated hydrochloric acid and 200 ml of water, stirred for 30 minutes and extracted by shaking twice with 50 ml of dichloromethane each time and once with 50 ml of a mixture of trichloromethane and methanol (3:1). The organic phases are combined, washed twice with water, dried over magnesium sulphate, treated with kieselguhr and concentrated by evaporation. Chromatography over silica gel using hexane/ethyl acetate (4:1) as eluant yields 4-(m-methylthiobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid methyl ester in the form of a yellow oil.

reactant | aluminium trichloride | 28.26 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 5-methoxybenzocyclobutene-1-carboxylic acid methyl ester | 10.19 g | COC(=O)C1=CC2=C1C=C(C=C2)OC | C11H10O3
reactant | m-methylthiobenzoyl chloride | 20.8 g | CC=1C=C(C(=S)Cl)C=CC1 | C8H7ClS
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | water | 200 ml | O | H2O
product | 4-(m-methylthiobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid methyl ester | COC(=O)C1=CC2=C1C=C(C(=C2)C(C2=CC(=CC=C2)C)=S)O | C18H14O3S
